US04552894
Sodium hydride (0.24 g; 60% in oil) was suspended in 30 ml of dry tetrahydrofuran, and then 1.0 g of 3-(2-fluoroethoxy)benzyl alcohol was added. The mixture was stirred at 50° to 60° C. for 30 minutes, and 1.7 g of benzyl bromide was added. The mixture was heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, poured into water, and extracted with toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate. Toluene was evaporated under reduced pressure. The resulting crude ether was purified by silica gel (50 g) column chromatography (developing solvent: toluene) to give 1.2 g of 3-(2-fluoroethoxy)benzyl benzyl ether.

reactant | Sodium hydride | 0.24 g | [H-].[Na+]
reactant | 3-(2-fluoroethoxy)benzyl alcohol | 1.0 g | FCCOC=1C=C(CO)C=CC1 | C9H11FO2
reactant | benzyl bromide | 1.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(2-fluoroethoxy)benzyl benzyl ether | 1.2 g | C(C1=CC=CC=C1)OCC1=CC(=CC=C1)OCCF | C16H17FO2
